data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,4539,"CC1CCC(C)[CH:1]=[C:2]1C.[H:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,900,"C1=CC=CC=C1.C1=CC=[N:1]C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.CC1=CCC(C)(O)[N+:2]1(C1=CC2=C(C=C1)C(I)=C(C1=CC=CC=C1)O2)[H:3].O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5527,"CC(C)(C)[Si](OC[CH:1]([NH:2]C(CC#N)CC1=CNC2=CC=CC=C12)[OH2+:3])(C1=CC=CC=C1)C1=CC=CC=C1.N#CCC(N)CC1=CNC2=C1C=CC=C2|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4618,"O=[C+:1]CC[C:2]1=[CH:3]C=CC=C1Br|((2, 3), 1)"
train,pmechdb_split_0,0,9142,"CC(=O)NCC(=O)[O-:1].CC(=O)O[C:2](C)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4580,"CCOC(=O)CC[C:1]1=[C:2]2C(C)=C3C=CC=CC3=C(OC)[C:3]2=[O+:4][CH:5]1[H:6].O=S(=O)([O-])C(F)(F)F.[OH2:7]|(7, 6);((6, 5), 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5137,"C=C(C)C1OC2(C)CCC3C(=C2CC1[O+:1](I1(OC(C)=O)(OC(C)=O)OC(=O)C2=C1C=CC=C2)[H:2])CCC1COC(=O)C13C.CC(=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7964,"COC1=C2OC3C45CCNC(CC(=C24)C=C1)C5(O)CC[C:1]3([NH:2]N)[OH:3].O.OCCOCCO|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9843,"CCO[C:1](C(C)C)([O-:2])[O:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3288,"CC(=O)[O-:1].COC1=CC2=C(C=C1)C=C(C(=O)C[CH:2]([H:3])[C:4](C1=CC=CC=C1)=[NH2+:5])C=C2.O|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,2811,"C(=NC1CCCCC1)=[N:1]C1CCCCC1.C=CCC(O)CC1CC(O[Si](C)(C)C(C)(C)C)CC(CC2=C(C(=O)[O:2][H:3])C(OC)=CC=C2)O1.CN(C)C1=CC=[NH+]C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,762,"C1CC[NH:1]CC1.CC(=O)[O-].CCOC(=O)[C:2](C(CC(C)CC)N1CCCCC1)([H:3])[C:4](C)=[OH+:5].O|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,1285,"CC=[C+:1]C.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,425,"CCNC(C)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,276,"CC(Br)(Br)[C:1]([C:2](Br)(Br)[H:3])=[O:4].[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,8706,"CC(=O)C1=C[C:1](Br)([H:2])[CH+:3]O1.[Br-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,312,"CCO[S:1](C)(=O)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2665,"COC1=C(OC)C=C(CC[N+:1]2(C3=CC(=O)CCC3)C[CH2:2]2)C=C1.[Br-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,10133,"C[O+](C)[Si-:1](C)(C)(C)[O:2]S(C)(=O)=O|((1, 2), 2)"
train,pmechdb_split_0,0,5816,"CCOC(=O)C[NH:1]P(O)(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2267,"COC1=C(C)C=C2CC3(C)C(O)CCC(C2=C1)[C:1]3=[N+:2]1CCCC1.[Cl-].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1267,"OC(C1=CC=CC=C1)[CH:1]([H:2])[C:3](C1=CC=CC=C1)=[O:4].[Na+].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3875,"COC1=C(O)C2=C(C=C1)CC1C3CC(OC)C(=[O:1])CC23CCN1CCC1=CC=CC=C1.CS(=O)(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7663,"C1CCOC1.CCC1(O)C(=O)OCC2=C1C=C1C(=[O+:1][H:2])CCN1C2=O.O.O=C(C(F)(F)F)[O-:3].OCCO|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9109,"O=S(=O)(O)C1=C[CH+:1][C:2](S(=O)(=O)O)([H:3])O1.O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,4878,"C1CC[NH2+]C1.C1CC[NH:1]C1.C=C1CCCC2C[C:2](=[O:3])CCC12|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,314,"CSC(OC(=O)C(F)(F)F)C(OCC1=CC=CC=C1)C1OC(C)(C)OC1C(OCC1=CC=CC=C1)[CH:1]([S+](C)OC(=O)C(F)(F)F)[H:2].O=C(C(F)(F)F)[O-:3].O=C(O)C(F)(F)F|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4358,"CO[C+:1]1C=C([N+](=O)[O-])C=C[C:2]1([N+](=O)[O-])[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,7053,"CO[PH:1](OC)(OC)[N:2]1C=NN=N1|((1, 2), 2)"
train,pmechdb_split_0,0,4400,"CCN[C:1]1=[N+:2](C)[C:3](CNC(=O)OC(C)(C)C)([O-:4])[O:5]1|(4, 3);((3, 5), 1);((1, 2), 2)"
train,pmechdb_split_0,0,444,"CCOC(C)[O+:1](CC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5545,"C1=CC=C([O:1][H:2])C=C1.[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2814,"CCCC[B-:1](CCCC)([O+]=C(C)CC)[O:2]S(=O)(=O)C(F)(F)F.CCN(C(C)C)C(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,4754,"CC[O-:1].C[CH:2]([H:3])[CH:4]=[O:5]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,7437,"C[C+:1]=O.N#CC1=C[CH:2]=[CH:3]O1|((3, 2), 1)"
train,pmechdb_split_0,0,8995,"CC1=CC=C(S(=O)(=O)[O-:1])C=C1.CCOC(=O)C1=C2C=CC=CC(OCC)=C2C=C1[C:2]1([H:3])CC(O)(C2=CC=C(OC)C=C2)[O+:4]=[C:5]1C.CN(C)C=O|(1, 3);((3, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,3542,"COC1=C(O)C2=C(C=C1)CC1NCCC23CC(=[O:1])C(OC)CC13.CS(=O)(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,310,"CC(C)(O)C(C)(C)[OH:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6630,"COC(=O)C1C2CCC(C2)[NH+]1C[CH-:1]C#N.C[N+:2](C)(C)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,568,"CC(C)C.COC1=CC=C(COCC(CC2(CC(COCC3=CC=C(OC)C=C3)O[Si-:1](C)(C)(C(C)(C)C)[Cl:2])SCCCS2)O[Si](C)(C)C(C)(C)C)C=C1.[Li+]|((1, 2), 2)"
train,pmechdb_split_0,0,3905,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CC1=C[C:1]2(C[CH2:2]2)[CH:3]=[CH:4][C:5]1=[O+:6]C.OC=[O:7]|(7, 2);((2, 1), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,1627,"C1CCOC1.CC(=O)[O-:1].CCOC(=O)C1(O)C[C:2](C2=C([N+](=O)[O-])C(N3CCCCC3)=CC=C2)([H:3])[C:4](C(=O)OCC)=[O+:5]1|(1, 3);((3, 2), 4);((4, 5), 5)"
